US08242204B2
2) Preparation of Benzyl Ethoxydithioformate
1 g of Ethanol was dissolved in 50 g of dimethylforamide, 0.44 g of sodium hydride (60% paraffin) was added thereto, and the mixture was stirred for 4 hours. 1.8 mL of carbon disulfide was gradually added thereto, and the mixture was stirred for 12 hours. 1.3 mL of benzylbromide was gradually added to the mixture and the resultant was stirred at room temperature for 12 hours. Then, the reaction was terminated by adding 1 mL of methanol thereto. Ice was added to the resultant, and the resultant was subjected to extraction using ethyl ether and dried using magnesium sulfate to prepare benzyl methoxydithiomate.

reactant | Ethanol | 1 g | C(C)O | C2H6O
reactant | sodium hydride | 0.44 g | [H-].[Na+]
reactant | carbon disulfide | 1.8 mL | C(=S)=S | CS2
reactant | benzylbromide | 1.3 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylforamide | 50 g | CN(C=O)C | C3H7NO
product | Benzyl Ethoxydithioformate | C(C)OC(=S)SCC1=CC=CC=C1 | C10H12OS2
